US05728650
C. Preparation of tetraethyl-3-(dipropylamino)-propane-1,1-bisphosphonate
A solution of N,N-dipropyl-3,3-bis(diethoxyphosphinyl)propionamide (1.25 g, 2.9 mmol) in THF (7.1 ml) was cooled to 0° C., and borane-methylsulfide (0.71 ml, 7.1 mmol) was added via syringe. The reaction was stirred at 0° C. for 20 minutes, then warmed at 65 C. for 3 hours. The reaction mixture was cooled to 0° C. and 6N HCl (6 ml) was added carefully. The solvent was removed m vacuo, and the residue was treated with methanol (5 ml) and concentrated. The residue was dissolved in water (10 ml) and extracted with Et2O (3×10 ml). The aqueous layer was made basic to phenolphthalein with solid KOH and saturated with NaCl. The product was extracted into dichloromethane (5×20 ml), dried (Na2SO4) and concentrated to give the title compound (0.71 g, 60%).

reactant | N,N-dipropyl-3,3-bis(diethoxyphosphinyl)propionamide | 2.9 mmol, 1.25 g | C(CC)N(C(CC(P(=O)(OCC)OCC)P(=O)(OCC)OCC)=O)CCC | C17H37NO7P2
reactant | borane methylsulfide | 7.1 mmol, 0.71 ml | B.CSC
reactant | HCl | 6N, 6 ml | Cl | ClH
solvent | THF | 7.1 ml | C1CCOC1 | C4H8O
product | tetraethyl-3-(dipropylamino)-propane-1,1-bisphosphonate | 0.71 g, 60% | C(C)OP(OCC)(=O)C(CCN(CCC)CCC)P(OCC)(=O)OCC | C17H39NO6P2
